US07262212B2
2-Chloro-4-nitro-1H-imidazole (18.4 g, 125 mmol) and (R)-2-methyloxiran-2-ylmethyl 4-methylbenzene sulfonate (36.2 g, 149 mmol) were suspended in acetonitrile (150 ml). Benzyl(triethyl)ammonium chloride (5.7 g, 25 mmol) was added to the suspension, and the resulting mixture was stirred under reflux for 8 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/ethyl acetate=20/1) to afford (R)-2-chloro-1-[2-hydroxy-2-methyl-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole (20.1 g, 43%) as a white amorphous form.

reactant | 2-Chloro-4-nitro-1H-imidazole | 125 mmol, 18.4 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | (R)-2-methyloxiran-2-ylmethyl 4-methylbenzene sulfonate | 149 mmol, 36.2 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@]1(OC1)C | C11H14O4S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
catalyst | Benzyl(triethyl)ammonium chloride | 25 mmol, 5.7 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | (R)-2-chloro-1-[2-hydroxy-2-methyl-3-(4-methylbenzenesulfonyloxy)propyl]-4-nitroimidazole | 20.1 g, 43% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@@](COS(=O)(=O)C1=CC=C(C=C1)C)(C)O | C14H16ClN3O6S
